US08729102B2
C) 2-ethylhexyl 3-{[2-{[(4-{[(2S)-2-(acetylamino)propyl]oxy}phenyl)carbonyl]amino}-5-(benzyloxy)phenyl]sulfanyl}propanoate
Using 2-ethylhexyl 3-{[2-amino-5-(benzyloxy)phenyl]sulfanyl}propanoate (1.00 g) and 4-{[(2S)-2-(acetylamino)propyl]oxy}benzoic acid (628 mg), and in the same manner as in Example 2, step C, the title compound (1.02 g) was obtained.

reactant | 2-ethylhexyl 3-{[2-amino-5-(benzyloxy)phenyl]sulfanyl}propanoate | 1.00 g | NC1=C(C=C(C=C1)OCC1=CC=CC=C1)SCCC(=O)OCC(CCCC)CC | C24H33NO3S
reactant | 4-{[(2S)-2-(acetylamino)propyl]oxy}benzoic acid | 628 mg | C(C)(=O)N[C@H](COC1=CC=C(C(=O)O)C=C1)C | C12H15NO4
product | 2-ethylhexyl 3-{[2-{[(4-{[(2S)-2-(acetylamino)propyl]oxy}phenyl)carbonyl]amino}-5-(benzyloxy)phenyl]sulfanyl}propanoate | 1.02 g | C(C)(=O)N[C@H](COC1=CC=C(C=C1)C(=O)NC1=C(C=C(C=C1)OCC1=CC=CC=C1)SCCC(=O)OCC(CCCC)CC)C | C36H46N2O6S
